US04554349
Cinnamyl 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-1-thio-α-D-mannopyranoside (8)
Boron trifluoride etherate (200 μl, 1.3 mmol) is added to a solution of 2-acetamido-1,3,4,6-tetra-O-acetyl-2-deoxy-α-D-mannopyranose (389 mg) and cinnamyl mercaptan (150 mg) in chloroform (10 ml), and the solution is kept under nitrogen for 2 days. Another portion of boron trifluoride etherate (200 μl) is added and the solution is kept under nitrogen for another 2 days. Chloroform (15 ml) is added and the solution is washed with aqueous sodium hydrogencarbonate and water, dried, and evaporated in vacuo to a residue, which is purified by preparative chromatography (EtOAc--CHCl3, 10:90, v/v, as a developing phase) to give the title compound (250 mg, 52%).

reactant | Boron trifluoride etherate | 1.3 mmol, 200 μl | B(F)(F)F.CCOCC
reactant | 2-acetamido-1,3,4,6-tetra-O-acetyl-2-deoxy-α-D-mannopyranose | 389 mg | C(C)(=O)N[C@@H]1[C@@H](OC(C)=O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H23NO10
reactant | cinnamyl mercaptan | 150 mg | C(C=CC1=CC=CC=C1)S | C9H10S
reactant | boron trifluoride etherate | 200 μl | B(F)(F)F.CCOCC
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | Cinnamyl 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-1-thio-α-D-mannopyranoside | 250 mg, 52% | C(C)(=O)N[C@@H]1[C@@H](SCC=CC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C23H29NO8S
